US08426604B2
5-[1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazol-4-one was prepared from 5-[1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-thioxo-thiazolidin-4-one and methyl iodide following General Procedure C.

reactant | 5-[1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-thioxo-thiazolidin-4-one | CS(=O)(=O)C1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)=S)=O)C=C1)C(F)(F)F | C20H14F3N3O3S3
reactant | methyl iodide | CI | CH3I
product | 5-[1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazol-4-one | CS(=O)(=O)C1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)SC)=O)C=C1)C(F)(F)F | C21H16F3N3O3S3
